US04632985
(C) 5-(Benzyloxy)-2-(hydrazinocarbonyl)-4-oxo-1,4-dihydropyridine
A suspension of 5-(benzyloxy)-1,4-dihydro-4-oxo-2-pyridinecarboxylic acid, ethyl ester (7.1 g, 26 mmole) in 99% hydrazine hydrate (15 ml) was heated until most of the solid dissolved. The resulting mixture was stirred for 25 minutes at ambient temperature, the excess hydrazine was removed under high vacuum and the solid residue was treated with methanol. The volatiles were removed in vacuo (repeat methanol treatment and evaporation twice), the solid residue was washed with methanol, hexane, and dried to afford 6 g of the title compound.

reactant | 5-(benzyloxy)-1,4-dihydro-4-oxo-2-pyridinecarboxylic acid, ethyl ester | 26 mmole, 7.1 g | C(C1=CC=CC=C1)OC=1C(C=C(NC1)C(=O)OCC)=O | C15H15NO4
reactant | hydrazine hydrate | 15 ml | O.NN
product | 5-(Benzyloxy)-2-(hydrazinocarbonyl)-4-oxo-1,4-dihydropyridine | 6 g | C(C1=CC=CC=C1)OC=1C(C=C(NC1)C(=O)NN)=O | C13H13N3O3
